US06048885
Aluminium chloride (0.27 g, 2 mmol) was added to a mixture of 5-chloro-2-(4-chlorobenzyloxy)phenyl 5-methyl-1,2,4-oxadiazol-3-yl ketone O-methyloxime (0.39 g, 1 mmol) and anisole (3 ml) under ice-cooling, and the mixture was stirred at the same temperature for 1 hour. After completion of the reaction, aqueous sodium bicarbonate solution (100 ml) was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 5-chloro-2-hydroxyphenyl 5-methyl-1,2,4-oxadiazol-3-yl ketone O-methyloxime (0.22 g, 82.2%) as colorless crystals. A part of the crystals was recrystallized from ether/n-hexane to give crystals (mp. 92-93.5° C.).

reactant | Aluminium chloride | 2 mmol, 0.27 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-chloro-2-(4-chlorobenzyloxy)phenyl 5-methyl-1,2,4-oxadiazol-3-yl ketone O-methyloxime | 1 mmol, 0.39 g | CON=C(C1=C(C=CC(=C1)Cl)OCC1=CC=C(C=C1)Cl)C1=NOC(=N1)C | C18H15Cl2N3O3
reactant | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | 5-chloro-2-hydroxyphenyl 5-methyl-1,2,4-oxadiazol-3-yl ketone O-methyloxime | 0.22 g, 82.2% | CON=C(C1=C(C=CC(=C1)Cl)O)C1=NOC(=N1)C | C11H10ClN3O3
